US08293758B2
N-((4-(dimethylamino)-4-(3-fluorophenyl)-4′,9′-dihydro-3′H-spiro[cyclohexane-1,1′-pyrano[3,4-b]indole]-2-yl)methyl)-3-phenylcinnamic acid amide (Example No. 33, One of Four Possible Diastereoisomers)
2-(aminomethyl)-4-(3-fluorophenyl)-N,N-dimethyl-4′,9′-dihydro-3′H-spiro[cyclohexane-1,1′-pyrano[3,4-b]indole]-4-amine (130 mg, 0.31 mmol) was dissolved in absolute tetrahydrofuran (20 ml) with argon. Hünig's base (0.1 ml, 0.63 mmol) and cinnamic acid chloride (105 mg, 0.63 mmol) dissolved in absolute tetrahydrofuran (8 ml) were added one after the other to the clear solution at room temperature. After a reaction time of 45 min, the batch was mixed with water (10 ml) and 2 N sodium hydroxide solution (10 ml) and stirred for 1 h. For work up tetrahydrofuran was distilled off completely. The aqueous mixture was extracted with dichloromethane (3×20 ml). The combined organic extracts were washed once again with water (20 ml), dried over Na2SO4 and concentrated to low volume. The raw product (247 mg) was separated by chromatography [silica gel 60 (30 g); ethyl acetate/cyclohexane 5:1 (600 ml)]. One of four possible diastereoisomers was obtained as white solid with a yield of 108 mg (65%) and with a melting point of 134-140° C.

reactant | 2-(aminomethyl)-4-(3-fluorophenyl)-N,N-dimethyl-4′,9′-dihydro-3′H-spiro[cyclohexane-1,1′-pyrano[3,4-b]indole]-4-amine | 0.31 mmol, 130 mg | NCC1CC(CCC12OCCC1=C2NC2=CC=CC=C12)(N(C)C)C1=CC(=CC=C1)F | C25H30FN3O
reactant | Hünig's base | 0.63 mmol, 0.1 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | cinnamic acid chloride | 0.63 mmol, 105 mg | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | sodium hydroxide | 2 N, 10 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | N-((4-(dimethylamino)-4-(3-fluorophenyl)-4′,9′-dihydro-3′H-spiro[cyclohexane-1,1′-pyrano[3,4-b]indole]-2-yl)methyl)-3-phenylcinnamic acid amide | CN(C1(CC(C2(OCCC3=C2NC2=CC=CC=C32)CC1)CNC(C=CC1=CC(=CC=C1)C1=CC=CC=C1)=O)C1=CC(=CC=C1)F)C | C40H40FN3O2
